US04537886
(a) 1-phenyl-3-pyrazolin-5-one
4-Ethoxycarbonyl-1-phenyl-3-pyrazolin-5-one (2.139 g, 9.2 mmol) in 1N sodium hydroxide (50 ml) was stirred under nitrogen at vigorous reflux for three hours. The reaction mixture was allowed to cool and acidified (HCl) to pH 3.5, whereupon ethyl acetate extraction, followed by drying (MgSO4) and evaporation produced the desired product (1.072 g, 72%) δ max(CHCl3) 1705, 1595, 1495 cm-1 δ(D6 -DMSO) 5.60 (1H,d,J2 Hz, C4 proton), 7.60 (6H, m, phenyl protons and C3 proton) Found; M+ ; 160.0641. C9H8N2O6 requires M; 160.0637.

reactant | 4-Ethoxycarbonyl-1-phenyl-3-pyrazolin-5-one | 9.2 mmol, 2.139 g | C(C)OC(=O)C1=CNN(C1=O)C1=CC=CC=C1 | C12H12N2O3
reactant | HCl | Cl | ClH
solvent | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
product | 1-phenyl-3-pyrazolin-5-one | 1.072 g, 72% | C1(=CC=CC=C1)N1NC=CC1=O | C9H8N2O
